US06916819B2
Synthesis of 2-(1H-Imidazol-2-yl)-pyrimidine hydrochloride
A mixture of 2-Cyanopyrimidine (8.0 g, 76 mmol, prepared according to Liebigs Ann.Chem. 2, 1981, 333-341) and Aminoacetaldehyde dimethyl acetal (8 g, 76 mmol) is heated at 100° C. for 4 hours, cooled, and 100 mL of MeOH and 5 mL of concentrated HCl are added. The mixture is heated at reflux with stirring for 30 hours, cooled and evaporated to dryness in vacuo. 50 mL of i-PrOH is added to the residue and the mixture is heated at reflux with stirring for 30 minutes and cooled. The crystals are collected by filtration, washed with ether, and dried to give the title compound. 1H NMR (DMSO): δ 9.08 (d, 2H), 7.87 (s, 2H), 7.75 (t, 1H). LRMS calcd 146, found 147 (MH+).

reactant | 2-Cyanopyrimidine | 76 mmol, 8.0 g | C(#N)C1=NC=CC=N1 | C5H3N3
reactant | Aminoacetaldehyde dimethyl acetal | 76 mmol, 8 g | COC(CN)OC | C4H11NO2
reactant | HCl | 5 mL | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | 2-(1H-Imidazol-2-yl)-pyrimidine hydrochloride | Cl.N1C(=NC=C1)C1=NC=CC=N1 | InChI=1S/C7H6N4.ClH/c1-2-8-6(9-3-1)7-10-4-5-11-7;/h1-5H,(H,10,11);1H
